US07396958B2
N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-(2-hydroxy-1-methylethyl)-3,4-dimethoxybenzenesulfonamide (compound 264)
To 1.1 g of methyl N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]alaninate in 15 ml of tetrahydrofuran are added, at room temperature, 158 mg of lithium aluminium hydride. After refluxing for 5 hours, the mixture is cooled to room temperature and hydrolysed with 15% sodium hydroxide solution. The medium is taken up in ethyl acetate and washed with water, the phases are separated by settling and the organic phase is dried over anhydrous sodium sulfate. The organic phase is concentrated and the residue is chromatographed on a column of silica gel, eluting with a 90/10 (v/v) toluene/ethyl acetate mixture to give 0.215 g of the expected product.

reactant | methyl N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]alaninate | 1.1 g | ClC1=CC(=C(C=C1)N([C@@H](C)C(=O)OC)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=C(C=CC=C1F)F | C25H24ClF2NO6S
reactant | lithium aluminium hydride | 158 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-(2-hydroxy-1-methylethyl)-3,4-dimethoxybenzenesulfonamide | 0.215 g | ClC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(CO)C)CC1=C(C=CC=C1F)F | C24H24ClF2NO5S
